US06440995B1
(RS)-1-Isopropylamino-3-(2-phenyl-quinolin-4-yloxy)-propan-2-ol
The title compound, m. p. 109-111° C., MS: m/e=337.2 (M+H+), was prepared from (RS)-4-oxiranylmethoxy-2-phenyl-quinoline and isopropylamine.

reactant | (RS)-4-oxiranylmethoxy-2-phenyl-quinoline | O1C(C1)COC1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C18H15NO2
reactant | isopropylamine | C(C)(C)N | C3H9N
product | (RS)-1-Isopropylamino-3-(2-phenyl-quinolin-4-yloxy)-propan-2-ol | C(C)(C)NCC(COC1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1)O | C21H24N2O2
